US06159988
1. trans-(+/-)-2-(2,4,6-Trimethoxyphenyl)cyclohexanol (II)
Cyclohexene oxide (90.2 ml; 0.89 mol) was added dropwise to a mechanically stirred mixture of trimethoxybenzene (I, 100 g; 0.594 mol) and aluminum chloride (118.82 g; 0.89 mol) in dichloromethane (500 ml) cooled at -78° C. The addition was done over a period of 50 min. The reaction mixture was allowed to stir at that temperature and the progress of the reaction monitored by TLC (tlc system 25% ethyl acetate-pet ether; anisaldehyde spray; pdt. Rf-value 0.35). The reaction mixture was worked up after 3 hours by adding cold-water (400 ml) and extracting with ethyl acetate (4×400 ml). The combined organic layers were washed with water, brine, and dried over sodium sulphate. The solvents were removed in-vacuo at a rotary evaporator. The oily residue was crystallized from pet ether (400 ml) to get the crystals of the title compound (62 g). The mother liquor, on evaporation of the solvents followed by chromatography over silica gel (column diam. 9.5 cm; silica gel 800 g; eluent 10, 25 and 40% ethyl acetate-pet ether), gave 28 g of the title compound. In total, 90 g (yield 57%; mp. 125-27° C.) of the title compound was isolated.

reactant | Cyclohexene oxide | 0.89 mol, 90.2 ml | C12C(CCCC1)O2 | C6H10O
reactant | trimethoxybenzene | 0.594 mol, 100 g | COC=1C(=C(C=CC1)OC)OC | C9H12O3
reactant | aluminum chloride | 0.89 mol, 118.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | water | 400 ml | O | H2O
product | trans-(+/-)-2-(2,4,6-Trimethoxyphenyl)cyclohexanol | 62 g | COC1=C(C(=CC(=C1)OC)OC)[C@H]1[C@@H](CCCC1)O | C15H22O4
